Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Morphine / Infliximab / Penicillins / Shellfish / Lactose
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, and abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of Crohn's disease diagnosed in ___ with 
multiple abdominal surgeries, who presented with 1 day history 
of multiple bouts of vomiting, and mild abdominal pain. Pt 
reported vomiting x12 since onset of symptoms that day, no blood 
in the vomitus. His abdominal pain was intermittent, dull, 
mostly in the supra-umbilical area, ___ in intensity, no 
radiation. Pt reported 2 non-bloody BM that day, and noted that 
he was passing flatus. He also reported some chills and 
sweating. He denied fever, or any recent changes in bowel 
habits. Last colonoscopy was in ___ that showed
Crohn's disease in the terminal ilium but no rectal disease was 
noted.
 
Past Medical History:
PMH: Crohn's with strictures and perianal fistula, h/o pSBO, B12
deficiency, ___ neuropathy secondary to Crohn's disease

PSH: SBR x 2 with stricturoplasty x 2 (___), I&D ischiorectal
abscess with fistulotomy and ___ placement (___), SBR with 
LOA and stricturoplasty x 3 (___), appendectomy.

 
Social History:
___
Family History:
Father- irritable bowel disease.
Father's family has heart disease.
Mother's family had lung cancer, breast cancer.
 
Physical Exam:
Upon Discharge:
Vitals - 98.9 98.9 75 119/77 18 100%RA
Gen - AAOx3, in no apparent distress
CV - RRR +S1/S2 no murmurs/rubs/gallops
Resp - CTAB, no wheezes/rhonchi/crackles
Abd - soft, non-tender, non-distended, +BS, no r/r/g, no 
palpable masses
Ext - no edema/cyanosis/clubibng
 
Pertinent Results:
CT ABDOMEN/PELVIS WITH CONTRAST (___):
Dilated small bowel with relative transition point near the 
right lower quadrant anastomosis.  Findings may reflect partial 
or resolving obstruction. 

DISCHARGE LABS:

___ 05:30AM BLOOD WBC-3.5*# RBC-3.15* Hgb-11.0* Hct-31.8* 
MCV-101* MCH-34.8* MCHC-34.5 RDW-16.3* Plt ___
___ 05:30AM BLOOD Neuts-69.4 ___ Monos-7.0 Eos-2.4 
Baso-0.4
___ 05:30AM BLOOD Glucose-71 UreaN-15 Creat-0.8 Na-145 
K-4.1 Cl-110* HCO3-23 AnGap-16
___ 05:30AM BLOOD Calcium-8.5 Phos-2.2* Mg-2.1
___ 09:12PM BLOOD Lactate-0.8
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service for 
evaluation and treatment of his nausea, vomiting, and emesis. 

The patient was admitted to the hospital on ___, and a CT 
scan was obtained (reader referred to Pertinent Results 
section), as well as full laboratory studies. Pain control was 
given with IV medications, and the patient was kept NPO with IV 
fluid rehydration. 

On HD#2 (___): The patient felt somewhat improved. He was 
placed on a clear liquid diet, which he tolerated well. He noted 
passing gas and having a bowel movement. He ambulated regularly 
and frequently. Gastroenterology service was consulted for their 
advice on any change in medical management of his Crohn's 
disease. Their consultation recommendation was to continue the 
patient's current regiment of medications (Pentasa, ___, with 
no need to escalate at this time. He is closely followed as an 
outpatient by Dr. ___. 

On HD#3 (___): He continued to feel well, and was advanced to a 
regular diet. He tolerated this very well. He reported minimal 
abdominal pain, and no nausea or vomiting. He was ambulating 
well multiple times per day, was passing gas, and had 2 formed 
bowel movements on this day.

Throughout his hospital stay, the patient remained stable from a 
cardiovascular standpoint; vital signs were routinely monitored. 
Good pulmonary toilet, early ambulation and incentive spirometry 
were encouraged throughout hospitalization. Electrolytes were 
routinely followed, and repleted when necessary. The patient's 
white blood count and fever curves were closely watched for 
signs of infection. Wound care was performed regularly and 
thoroughly. The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly. The patient 
received subcutaneous heparin and venodyne boots were used 
during this stay; was encouraged to get up and ambulate as early 
as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, with minimal 
complaints of pain.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
ALENDRONATE [FOSAMAX] -  (Prescribed by Other Provider; 1 tablet
every 7 days) - Dosage uncertain
CYANOCOBALAMIN (VITAMIN B-12) -  (Prescribed by Other Provider) 
- cyanocobalamin (vitamin B-12) 1,000 mcg/mL Injection 1 
injection monthly usually takes the ___ of every month
GABAPENTIN - gabapentin 300 mg capsule 1 capsule(s) by mouth 
three times daily
IMMUNE GLOBULIN (HUMAN) (IGG) -  (Prescribed by Other Provider) 
- Dosage uncertain
MERCAPTOPURINE - mercaptopurine 50 mg tablet 2 (Two) Tablet(s) 
by mouth once a day
MESALAMINE [PENTASA] - Pentasa 500 mg capsule,extended release 4 
Capsule(s) by mouth every twelve (12) hours
OXYCODONE-ACETAMINOPHEN - oxycodone-acetaminophen 5 mg-325 mg 
tablet
1 Tablet(s) by mouth ___ times per day as needed for prn 
PROCHLORPERAZINE MALEATE - prochlorperazine maleate 10 mg tablet 
1 Tablet(s) by mouth every eight (8) hours as needed for nausea
SCOPOLAMINE BASE [TRANSDERM-SCOP] - Transderm-Scop 1.5 mg 72 hr 
Transderm Patch
1 applied  to skin day before traveling prn as needed for prn
SCOPOLAMINE BASE [TRANSDERM-SCOP] - Transderm-Scop 1.5 mg 72 hr 
Transderm Patch
apply q 72 hrs as needed for prn
TRAMADOL - tramadol 50 mg tablet 1 tablet(s) by mouth three 
times daily as needed for headache do not exceed three tablets 
daily
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 500 + D (D3)] - 
(Prescribed by Other Provider; 1 tablet twice a day) - Dosage 
uncertain
IRON -  (Prescribed by Other Provider) - Dosage uncertain
MULTIVITAMIN -  (Prescribed by Other Provider) - multivitamin
tablet1 Tablet(s) by mouth has been taking twice daily
 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*40 Tablet Refills:*0
2. Mercaptopurine 100 mg PO DAILY Duration: 1 Doses 
3. Mesalamine ___ mg PO Q 12H 
4. TraMADOL (Ultram) 50 mg PO TID 
5. Prochlorperazine 10 mg PO Q8H:PRN nausea 
6. Gabapentin 300 mg PO TID 
7. Cyanocobalamin 1000 mcg IM/SC 1X/MONTH 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nausea, vomiting, and abdominal pain in the setting of a history 
of recurrent small bowel obstructions and Crohn's disease, most 
concerning for Crohn's flare or recurrent small bowel 
obstruction. 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for evaluation 
and treatment of your nausea, vomiting, and abdominal pain. You 
have done well in the hospital and are now safe to return home 
to complete your recovery with the following instructions:

Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
 
Followup Instructions:
___